US04016193
Ethyl 2-(3-nitro-4-allyloxyphenyl)propionate
A mixture of 2.39g of ethyl 2-(3-nitro-4-hydroxyphenyl)propionate, 1.45g of allylbromide and 1.65g of potassium carbonate in 20ml of acetone was refluxed for 4 hours. After cooling, the solvent was distilled under reduced pressure. The residue was dissolved in ethyl acetate and washed with water. After the solution was dried over magnesium sulfate, the solvent was distilled off. The thus obtained oily substance was purified by means of silica gel chromatography, to give the object compound in a yield of 2.51g (90%).

reactant | ethyl 2-(3-nitro-4-hydroxyphenyl)propionate | 2.39g | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(=O)OCC)C | C11H13NO5
reactant | allylbromide | 1.45g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 1.65g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20ml | CC(=O)C | C3H6O
product | Ethyl 2-(3-nitro-4-allyloxyphenyl)propionate | [N+](=O)([O-])C=1C=C(C=CC1OCC=C)C(C(=O)OCC)C | C14H17NO5
